US08389508B2
To a solution of [3-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-thiadiazol-3-yl)-2-ethylphenyl]acetaldehyde (D52) (100 mg), methyl 3-azetidinecarboxylate (57.4 mg) and acetic acid (1.428 μL) in dichloromethane (DCM) (8 mL) and N,N-dimethylformamide (DMF) (0.400 mL) stirred under nitrogen at room temperature for 20 min was added sodium triacetoxyborohydride (106 mg). The reaction mixture was stirred at room temperature for 5 h. The reaction mixture was concentrated, separated between water and EA, the water phase was extracted by EA. The organic phases were concentrated in vacuo. The residue was dissolved in Isopropanol (8.00 mL) and water (0.800 mL), 20% sodium hydroxide (0.5 mL) was added, then the reaction mixture stirred at room temperature for overnight. The mixture was neutralized with acetic acid, the resulting solution was concentrated and the residue was purified by Mass Directed AutoPrep to afford 1-{2-[3-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-thiadiazol-3-yl)-2-ethylphenyl]ethyl}-3-azetidinecarboxylic acid (E23) (32 mg) as a TFA salt (white solid). δH (DMSO-d6, 400 MHz): 1.12 (3H, t), 1.35 (6H, d), 2.92 (4H, m), 3.44 (2H, m), 3.63 (1H, m), 4.29 (4H, m), 4.86 (1H, m), 7.38 (3H, m), 7.74 (1H, d), 8.02 (1H, dd), 8.14 (1H, d), 10.18 (1H, br s), 13.18 (1H, br s). δF (DMSO-d6, 376 MHz): −73.5. MS (ES): C25H28ClN3O3S requires 485. found 486.2 (M+H+).

reactant | [3-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-thiadiazol-3-yl)-2-ethylphenyl]acetaldehyde | 100 mg | ClC=1C=C(C=CC1OC(C)C)C1=NC(=NS1)C=1C(=C(C=CC1)CC=O)CC | C21H21ClN2O2S
reactant | methyl 3-azetidinecarboxylate | 57.4 mg | N1CC(C1)C(=O)OC | C5H9NO2
reactant | acetic acid | 1.428 μL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 106 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 0.400 mL | CN(C=O)C | C3H7NO
product | 1-{2-[3-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-thiadiazol-3-yl)-2-ethylphenyl]ethyl}-3-azetidinecarboxylic acid | 32 mg | ClC=1C=C(C=CC1OC(C)C)C1=NC(=NS1)C=1C(=C(C=CC1)CCN1CC(C1)C(=O)O)CC | C25H28ClN3O3S
